US07087798B2
10 Grams (32.6 mmols) of a 3,9-dimethoxy-5-hydroxybenzo[c]fluorene-7-one was suspended in 500 ml of the THF followed by the addition of 10.7 g (49 mmols) of a di-t-butyl dicarbonate and 0.04 g (0.3 mmols) of a 4-dimethylaminopyridine, and the mixture was stirred at room temperature for 3 hours. The THF was concentrated until crystals precipitated, and to which was added 400 ml of heptane to crystallize 12.8 g of a 3,9-dimethoxy-5-t-butoxycarbonyloxybenzo[c]fluorene-7-one (abbreviated as benzofluorenone)(purity, 96%; yield 97%).

reactant | 3,9-dimethoxy-5-hydroxybenzo[c]fluorene-7-one | 32.6 mmols | COC=1C=CC2=C(C(=CC=3C(C=4C=C(C=CC4C23)OC)=O)O)C1 | C19H14O4
reactant | di-t-butyl dicarbonate | 49 mmols, 10.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 500 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.3 mmols, 0.04 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3,9-dimethoxy-5-t-butoxycarbonyloxybenzo[c]fluorene-7-one | 12.8 g, yield 97% | COC=1C=CC2=C(C(=CC=3C(C=4C=C(C=CC4C23)OC)=O)OC(=O)OC(C)(C)C)C1 | C24H22O6
